### PR TITLE
[Merged by Bors] - feat: `fun ω ↦ exp (t * X ω)` is integrable if `X` is bounded above

### PR DESCRIPTION
**Pull request by tukamilano**
I extracted a part of the [pull request of Hoeffding's lemma](https://github.com/leanprover-community/mathlib4/pull/18091).

### CODE REVIEW

**Comment by tukamilano** [comment]
I have a consultation.
As mentioned before, integrable_expt could have a shorter proof, but I couldn't figure out which theorem in mathlib I should apply to prove it directly. Could you tell me which theorem might be useful?

**Comment by RemyDegenne** [comment]
> I have a consultation. As mentioned before, integrable_expt could have a shorter proof, but I couldn't figure out which theorem in mathlib I should apply to prove it directly. Could you tell me which theorem might be useful?

In your other PR #18091 you have a lemma `integrable_bounded`, that you could use here (unless I overlooked something).

**Comment by tukamilano** [comment]
> > I have a consultation. As mentioned before, integrable_expt could have a shorter proof, but I couldn't figure out which theorem in mathlib I should apply to prove it directly. Could you tell me which theorem might be useful?
> 
> In your other PR #18091 you have a lemma `integrable_bounded`, that you could use here (unless I overlooked something).

The premise of integrable_bounded `(h : ∀ᵐ ω ∂μ, X ω ∈ Set.Icc a b)` is different from that of integrable_expt `(hb : ∀ᵐ ω ∂μ, X ω ≤ b)`, so I think integrable_bounded cannot be applied directly.

**Comment by RemyDegenne** [comment]
exp(t X) is bounded between 0 and exp(t b) (since t>=0 and X <= b)

**Comment by tukamilano** [comment]
I shorten the proof so please check if you have time

File: Mathlib/Probability/Moments.lean [hunk 1]
```diff
@@ -31,7 +31,15 @@ import Mathlib.Probability.Variance
...
-
+* `ProbabilityTheory.tilt_first_deriv`: derivation of `mgf X μ t` is
+  `μ[exp (t * X ω) * X ω]`. In order to deal with the differentiation of parametric integrals,
+`hasDerivAt_integral_of_dominated_loc_of_deriv_le` are used in the proof.
+* `ProbabilityTheory.tilt_second_deriv`: derivation of `μ[fun ω ↦ rexp (t * X ω) * X ω]` is
+  `μ[fun ω ↦ rexp (t * X ω) * X ω ^ 2]`. In order to deal with the differentiation of
+  parametric integrals, `hasDerivAt_integral_of_dominated_loc_of_deriv_le` are used in the proof.
+* `ProbabilityTheory.cgf_deriv_one`: first derivative of cumulant `cgf X μ t`.
+  It can be described by exponential tilting.
+* `ProbabilityTheory.cgf_deriv_two`: second derivative of cumulant `cgf X μ t`.
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:42]: This docstring refers to results that are not in this PR. Please remove it. Please also remove the two books you add in the references bib file, since you don't refer to them in this PR.

File: Mathlib/Probability/Moments.lean [hunk 2]
```diff
@@ -336,4 +344,27 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
 
 end MomentGeneratingFunction
 
+theorem integrable_bounded [IsFiniteMeasure μ] (a b : ℝ) {X : Ω → ℝ} (hX : AEMeasurable X μ)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:347]: A better name would be `integrable_of_mem_Icc`.
This lemma should be moved to a more appropriate place: it is about integrability in general, and not about moments. You can use `#find_home! integrable_of_mem_Icc` to suggest a more suitable file. Probably Mathlib.MeasureTheory.Function.L1Space

File: Mathlib/Probability/Moments.lean [hunk 3]
```diff
@@ -336,4 +344,27 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+    (h : ∀ᵐ ω ∂μ, X ω ∈ Set.Icc a b) :
+     Integrable X μ := by
+   have m1 : HasFiniteIntegral X μ := by
+      apply (hasFiniteIntegral_const (max ‖a‖ ‖b‖)).mono'
+      filter_upwards [h.mono fun ω h ↦ h.1, h.mono fun ω h ↦ h.2] with ω using abs_le_max_abs_abs
+   exact ⟨aestronglyMeasurable_iff_aemeasurable.mpr hX, m1⟩
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:353]:
```suggestion
   exact ⟨hX.aestronglyMeasurable, m1⟩
```

File: Mathlib/Probability/Moments.lean [hunk 4]
```diff
@@ -336,4 +344,27 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+
+lemma aemeasurable_expt {X : Ω → ℝ} (t : ℝ) (hX : AEMeasurable X μ) :
+    AEStronglyMeasurable (fun ω ↦ rexp (t * (X ω))) μ :=
+  aestronglyMeasurable_iff_aemeasurable.mpr <| measurable_exp.comp_aemeasurable' (hX.const_mul t)
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:357]:
```suggestion
  (measurable_exp.comp_aemeasurable (hX.const_mul t)).aestronglyMeasurable
```

File: Mathlib/Probability/Moments.lean [hunk 5]
```diff
@@ -336,4 +344,27 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
 
+theorem integrable_bounded [IsFiniteMeasure μ] (a b : ℝ) {X : Ω → ℝ} (hX : AEMeasurable X μ)
+    (h : ∀ᵐ ω ∂μ, X ω ∈ Set.Icc a b) :
+     Integrable X μ := by
+   have m1 : HasFiniteIntegral X μ := by
+      apply (hasFiniteIntegral_const (max ‖a‖ ‖b‖)).mono'
+      filter_upwards [h.mono fun ω h ↦ h.1, h.mono fun ω h ↦ h.2] with ω using abs_le_max_abs_abs
+   exact ⟨aestronglyMeasurable_iff_aemeasurable.mpr hX, m1⟩
+
+lemma aemeasurable_expt {X : Ω → ℝ} (t : ℝ) (hX : AEMeasurable X μ) :
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:355]: A better name:
```suggestion
lemma aemeasurable_exp_mul {X : Ω → ℝ} (t : ℝ) (hX : AEMeasurable X μ) :
```

File: Mathlib/Probability/Moments.lean [hunk 6]
```diff
@@ -336,4 +344,27 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+    AEStronglyMeasurable (fun ω ↦ rexp (t * (X ω))) μ :=
+  aestronglyMeasurable_iff_aemeasurable.mpr <| measurable_exp.comp_aemeasurable' (hX.const_mul t)
+
+lemma integrable_expt [IsFiniteMeasure μ] {X : Ω → ℝ} (t b : ℝ) (ht : t > 0)
+    (hX : AEMeasurable X μ) (hb : ∀ᵐ ω ∂μ, X ω ≤ b) :
+    Integrable (fun ω ↦ exp (t * (X ω))) μ := by
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:361]: 4 comments:
- a suggestion for a better name
- this is also true for `t = 0` so you should use `ht : 0 ≤ t`
- we don't use hypotheses of the shape `t > 0`, but use `0 < t` instead. 
- Some parentheses were not necessary
```suggestion
lemma integrable_exp_mul_of_le [IsFiniteMeasure μ] {X : Ω → ℝ} (t b : ℝ) (ht : 0 ≤ t)
    (hX : AEMeasurable X μ) (hb : ∀ᵐ ω ∂μ, X ω ≤ b) :
    Integrable (fun ω ↦ exp (t * X ω)) μ := by
```

File: Mathlib/Probability/Moments.lean [hunk 7]
```diff
@@ -336,4 +344,27 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+  have h : ∀ᵐ ω ∂μ, rexp (t * X ω) ∈ Set.Icc 0 (rexp (t * b)) := by
+    filter_upwards [hb] with ω hb
+    constructor
+    · exact exp_nonneg (t * X ω)
+    · exact (exp_le_exp.mpr (mul_le_mul_of_nonneg_left hb (le_of_lt ht)))
+  exact integrable_bounded 0 (rexp (t * b))
+    (Measurable.comp_aemeasurable' measurable_exp (AEMeasurable.const_mul hX t)) h
```
Comment (RemyDegenne) [inline Mathlib/Probability/Moments.lean:368]:
```suggestion
    (measurable_exp.comp_aemeasurable (hX.const_mul t)) h
```

**Comment by tukamilano** [comment]
> Can you please resolve the comments that you have addressed?

I've addressed the comments. Please review again.

File: Mathlib/Probability/Moments.lean [hunk 8]
```diff
@@ -336,4 +336,18 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
 
 end MomentGeneratingFunction
 
+lemma aemeasurable_exp_mul {X : Ω → ℝ} (t : ℝ) (hX : AEMeasurable X μ) :
+    AEStronglyMeasurable (fun ω ↦ rexp (t * (X ω))) μ :=
```
Comment (YaelDillies) [inline Mathlib/Probability/Moments.lean:340]:
```suggestion
    AEStronglyMeasurable (fun ω ↦ rexp (t * X ω)) μ :=
```

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 9]
```diff
@@ -444,6 +444,14 @@ theorem integrable_const_iff {c : β} : Integrable (fun _ : α => c) μ ↔ c =
   have : AEStronglyMeasurable (fun _ : α => c) μ := aestronglyMeasurable_const
   rw [Integrable, and_iff_right this, hasFiniteIntegral_const_iff]
 
+theorem integrable_of_mem_Icc [IsFiniteMeasure μ] (a b : ℝ) {X : α → ℝ} (hX : AEMeasurable X μ)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Function/L1Space.lean:447]:
```suggestion
theorem Integrable.of_mem_Icc [IsFiniteMeasure μ] (a b : ℝ) {X : α → ℝ} (hX : AEMeasurable X μ)
```

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 10]
```diff
@@ -444,6 +444,14 @@ theorem integrable_const_iff {c : β} : Integrable (fun _ : α => c) μ ↔ c =
   have : AEStronglyMeasurable (fun _ : α => c) μ := aestronglyMeasurable_const
   rw [Integrable, and_iff_right this, hasFiniteIntegral_const_iff]
 
+theorem Integrable.of_mem_Icc [IsFiniteMeasure μ] (a b : ℝ) {X : α → ℝ} (hX : AEMeasurable X μ)
+    (h : ∀ᵐ ω ∂μ, X ω ∈ Set.Icc a b) :
+     Integrable X μ := by
+  have m1 : HasFiniteIntegral X μ := by
+      apply (hasFiniteIntegral_const (max ‖a‖ ‖b‖)).mono'
+      filter_upwards [h.mono fun ω h ↦ h.1, h.mono fun ω h ↦ h.2] with ω using abs_le_max_abs_abs
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Function/L1Space.lean:452]: Can we have `HasFiniteIntegral.of_mem_Icc`?

File: Mathlib/Probability/Moments.lean [hunk 11]
```diff
@@ -336,4 +336,18 @@ theorem measure_le_le_exp_cgf [IsFiniteMeasure μ] (ε : ℝ) (ht : t ≤ 0)
...
+
+lemma integrable_exp_mul_of_le [IsFiniteMeasure μ] {X : Ω → ℝ} (t b : ℝ) (ht : 0 ≤ t)
+    (hX : AEMeasurable X μ) (hb : ∀ᵐ ω ∂μ, X ω ≤ b) :
+    Integrable (fun ω ↦ exp (t * X ω)) μ := by
+  have h : ∀ᵐ ω ∂μ, rexp (t * X ω) ∈ Set.Icc 0 (rexp (t * b)) := by
+    filter_upwards [hb] with ω hb
+    constructor
+    · exact exp_nonneg (t * X ω)
+    · exact (exp_le_exp.mpr (mul_le_mul_of_nonneg_left hb ht))
+  exact Integrable.of_mem_Icc 0 (rexp (t * b)) (measurable_exp.comp_aemeasurable (hX.const_mul t)) h
```
Comment (YaelDillies) [inline Mathlib/Probability/Moments.lean:351]:
```suggestion
  refine .of_mem_Icc 0 (rexp (t * b)) (measurable_exp.comp_aemeasurable (hX.const_mul t)) ?_
  filter_upwards [hb] with ω hb
  exact ⟨by positivity, by gcongr⟩
```
and maybe we don't need this lemma at all?

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 12]
```diff
@@ -154,6 +154,12 @@ theorem hasFiniteIntegral_const [IsFiniteMeasure μ] (c : β) :
     HasFiniteIntegral (fun _ : α => c) μ :=
   hasFiniteIntegral_const_iff.2 (Or.inr <| measure_lt_top _ _)
 
+theorem hasFiniteIntegral.of_mem_Icc [IsFiniteMeasure μ] (a b : ℝ) {X : α → ℝ}
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Function/L1Space.lean:157]:
```suggestion
theorem HasFiniteIntegral.of_mem_Icc [IsFiniteMeasure μ] (a b : ℝ) {X : α → ℝ}
```

File: Mathlib/Probability/Moments.lean [hunk 13]
```diff
@@ -4,6 +4,7 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Rémy Degenne
 -/
 import Mathlib.Probability.Variance
+import Mathlib.MeasureTheory.Function.L1Space
```
Comment (YaelDillies) [inline Mathlib/Probability/Moments.lean:7]:
```suggestion
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 14]
```diff
@@ -444,6 +450,10 @@ theorem integrable_const_iff {c : β} : Integrable (fun _ : α => c) μ ↔ c =
   have : AEStronglyMeasurable (fun _ : α => c) μ := aestronglyMeasurable_const
   rw [Integrable, and_iff_right this, hasFiniteIntegral_const_iff]
 
+theorem Integrable.of_mem_Icc [IsFiniteMeasure μ] (a b : ℝ) {X : α → ℝ} (hX : AEMeasurable X μ)
+    (h : ∀ᵐ ω ∂μ, X ω ∈ Set.Icc a b) :
+    Integrable X μ := ⟨hX.aestronglyMeasurable, hasFiniteIntegral.of_mem_Icc a b h⟩
+
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Function/L1Space.lean:456]:
```suggestion
    Integrable X μ :=
  ⟨hX.aestronglyMeasurable, hasFiniteIntegral.of_mem_Icc a b h⟩

```

**Review by j-loreaux — COMMENTED** [review]
Thanks! Please address the small style issue below and then wait for CI to finish before merging.

bors d+

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 15]
```diff
@@ -444,6 +450,11 @@ theorem integrable_const_iff {c : β} : Integrable (fun _ : α => c) μ ↔ c =
   have : AEStronglyMeasurable (fun _ : α => c) μ := aestronglyMeasurable_const
   rw [Integrable, and_iff_right this, hasFiniteIntegral_const_iff]
 
+theorem Integrable.of_mem_Icc [IsFiniteMeasure μ] (a b : ℝ) {X : α → ℝ} (hX : AEMeasurable X μ)
+    (h : ∀ᵐ ω ∂μ, X ω ∈ Set.Icc a b) :
+    Integrable X μ :=
+  ⟨hX.aestronglyMeasurable, HasFiniteIntegral.of_mem_Icc a b h⟩
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Function/L1Space.lean:456]:
```suggestion
  ⟨hX.aestronglyMeasurable, .of_mem_Icc a b h⟩
```
